*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.20e-03[uF]/630[V]
* Murata P/N :GCM21B5C2J122GX03
* Property : C = 1.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2J122GX03 Port1 Port2
C01 Port1 N01 1.20e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 2.04e-10
R03 N02 N03 2.88e-03
C04 N03 N04 3.34e-08
R04 N03 N04 8.82e+01
L05 N04 N05 9.12e-11
R05 N04 N05 6.62e-01
L06 N05 N06 8.88e-11
R06 N05 N06 2.47e-02
C07 N06 N07 5.50e-09
L07 N06 N07 3.20e-11
R07 N06 N07 9.02e-01
C08 N07 N08 2.39e-09
L08 N07 N08 3.34e-11
R08 N07 N08 9.93e-01
C09 N08 N09 1.46e-08
L09 N08 N09 2.76e-12
R09 N08 N09 1.62e-01
C10 N09 N10 2.46e-09
L10 N09 N10 1.04e-11
R10 N09 N10 3.15e-01
C11 N10 Port2 1.54e-12
L11 N10 Port2 1.98e-10
R11 N10 Port2 2.20e+02
.ENDS GCM21B5C2J122GX03
